US06194409B1
102c. N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid benzyl ester
(N-Ethoxycarbonylmethyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid benzyl ester (1.7 g) was dissolved in 7 mL of water and a solution of BOC anhydride (1.22 g) in 7 mL of dioxane was added. The mixture was allowed to stir for 16 h while pH 9.5 was maintained by continious addition of the appropriate amounts of 0.1 N NaOH. The dioxane was distilled off followed by extraction with ethyl acetate, removal of the solvent in vacuo and purification of the remaining residue by silica chromatography (isohexane/ethyl acetate 1/1). Yield: 1.50 g (68%); colorless oil; (−)-APCI-MS: 470 ([M-H]−).

reactant | N-Ethoxycarbonylmethyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid benzyl ester | 1.7 g | C(C1=CC=CC=C1)OC([C@@H](CC1=CC=C(C=C1)OC)NCC(=O)OCC)=O | C21H25NO5
reactant | BOC anhydride | 1.22 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 0.1 N | [OH-].[Na+]
solvent | water | 7 mL | O | H2O
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | N-Ethoxycarbonylmethyl-N-tert.-butoxycarbonyl-2-(R)-amino-3-(4-methoxyphenyl)-propionic acid benzyl ester | C(C1=CC=CC=C1)OC([C@@H](CC1=CC=C(C=C1)OC)N(C(=O)OC(C)(C)C)CC(=O)OCC)=O | C26H33NO7
